US06559164B1
To a cold solution of 3-(1-methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione (500 mg, 1.25 mmol) (see Davis U.S. Pat. No. 5,057,614) in THF (7 mL) was added dropwise n-butyllithium (0.86 mL, 1.375 mmol, 1.6 M in hexane). The resulting red suspension was stirred for 15 min. Bis(p-nitrophenyl)carbonate (532 mg, 1.75 mmol) was then added. The resulting solution was stirred at 0° C. for 1 h. 4-aminobutanol (167 mg, 1.875 mmol) in THF (4 mL) was added, and stirring was continued for 2 h. The solvent was evaporated and the residue was purified by flash chromatography to afford 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrole-1-carboxylic acid (4-hydroxybutyl)-amide as an orange solid (280 mg, 43%).

reactant | 3-(1-methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione | 1.25 mmol, 500 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H16N4O4
reactant | n-butyllithium | 1.375 mmol, 1.6 M, 0.86 mL | C(CCC)[Li]
reactant | Bis(p-nitrophenyl)carbonate | 1.75 mmol, 532 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8N2O7
reactant | 4-aminobutanol | 1.875 mmol, 167 mg | NCCCCO | C4H11NO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrole-1-carboxylic acid (4-hydroxybutyl)-amide | 280 mg, 43% | OCCCCNC(=O)N1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C27H25N5O6
